US07919628B2
To 10.1 g 4-fluoro-1-methoxynaphthalene-2-carboxylic acid 55 mL HBr/HOAc were added and the mixture was stirred and heated. After 30 min at 60° C. another 7.5 mL of HBr/HOAc were added, and after an additional 30 min at 80° C. the mixture was cooled to ambient temperature and left standing overnight. The reaction was then poured into ice/water and the precipitated solid was filtered and washed with water, followed by 1% ether in heptane and then by heptane. The solid was dried in vacuo at 40° C. to yield 7.7 g 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid.

reactant | 4-fluoro-1-methoxynaphthalene-2-carboxylic acid | 55 mL, 10.1 g | FC1=CC(=C(C2=CC=CC=C12)OC)C(=O)O | C12H9FO3
reactant | HBr HOAc | 7.5 mL | Br.CC(=O)O
product | 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid | 7.7 g | FC1=CC(=C(C2=CC=CC=C12)O)C(=O)O | C11H7FO3
